US05332750
A mixture of 404 mg of 6-butyl-1-[4-(2-methoxycarbonylanilinocarbonyl)benzyl]-1,2-dihydro-2-oxopyridine, 10 ml of 0.1N aqueous NaOH solution and 17 ml of THF is left to stand for 48 hours at 20°. The THF is evaporated off, the residue is acidified with HCl and extracted with methylene chloride and the extract is dried over Na2SO4 to give 6-butyl-1-[4-(2-carboxyanilinocarbonyl)benzyl]-1,2-dihydro-2-oxopyridine after evaporation.

reactant | 6-butyl-1-[4-(2-methoxycarbonylanilinocarbonyl)benzyl]-1,2-dihydro-2-oxopyridine | 404 mg | C(CCC)C1=CC=CC(N1CC1=CC=C(C=C1)C(=O)NC1=C(C=CC=C1)C(=O)OC)=O | C25H26N2O4
reactant | NaOH | 0.1N, 10 ml | [OH-].[Na+]
solvent | THF | 17 ml | C1CCOC1 | C4H8O
product | 6-butyl-1-[4-(2-carboxyanilinocarbonyl)benzyl]-1,2-dihydro-2-oxopyridine | C(CCC)C1=CC=CC(N1CC1=CC=C(C=C1)C(=O)NC1=C(C=CC=C1)C(=O)O)=O | C24H24N2O4
